US06150373
A mixture of 300 mg (0.6 mmol) of 3-(2-bromophenyl)-7-methanesulfonyl -3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one and 1.5 ml of 4-methoxybenzylamine was heated at 100° C. for 1 hour. The mixture was cooled and partitioned between 30 ml of dichloromethane and 30 ml of 2M aqueous hydrochloric acid. The organic phase was dried over magnesium sulfate, filtered and evaporated. The residue was dissolved in 10 ml of trifluoroacetic acid and then heated at reflux for 3 hours. The mixture was cooled and evaporated and the residue was partitioned between 25 ml of ethyl acetate and 25 ml of saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and evaporated and the residue was subjected to column chromatography on silica gel using ethyl acetate for the elution. Product-containing fractions were combined and evaporated to give 105 mg (40%) of 7-amino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 154° C.

reactant | 3-(2-bromophenyl)-7-methanesulfonyl -3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.6 mmol, 300 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)CCO)=O | C21H19BrN4O4S
reactant | 4-methoxybenzylamine | 1.5 ml | COC1=CC=C(CN)C=C1 | C8H11NO
product | 7-amino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(2-hydroxyethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 105 mg, 40% | NC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)C2=CC(=CC=C2)CCO | C20H18BrN5O2
